US09169198B2
The above-described method (Example 2) was repeated to react 2-ethylhexyl 2-amino-5-bromo-3-methylbenzoate (2.00 g, 5.84 mmol) with copper cyanide (0.53 g, 5.96 mmol) in N,N-dimethylacetamide at 160° C. for 8 hours. Following working up similar to Example 2 and additional washing with aqueous 5% ethylenediamine solution, 2-ethylhexyl 2-amino-5-cyano-3-methylbenzoate (1.45 g, 76.7% of theory, 89.1 area % LC) was obtained as a brown oil.

reactant | 2-ethylhexyl 2-amino-5-bromo-3-methylbenzoate | 5.84 mmol, 2.00 g | NC1=C(C(=O)OCC(CCCC)CC)C=C(C=C1C)Br | C16H24BrNO2
reactant | copper cyanide | 5.96 mmol, 0.53 g | [Cu](C#N)C#N
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | 2-ethylhexyl 2-amino-5-cyano-3-methylbenzoate | 1.45 g, 76.7% | NC1=C(C(=O)OCC(CCCC)CC)C=C(C=C1C)C#N | C17H24N2O2
